US06297282B1
a) 3-chloro-2-(2,4-dichlorophenylthio)-nitrobenzene
Sodium carbonate (13.8 g) is added to a solution of 1,2-dichloro-3-nitrobenzene (19.29 g) and 2,4-dichlorothio-phenol (17.9 g) in xylene (250 ml), and the resulting mixture is heated for 5 hours at reflux temperature. The precipitate is separated by filtration, washed with xylene and the combined organic phases are concentrated. The resultant residue is mixed with petroleum ether and stirred for 1 hour at room temperature. Following this, the crystalline material is suction filtered and washed with petroleum ether, and any remaining solvent is removed in a vacuum. Yield: 25.6 g of colourless crystals (76.6%).

reactant | Sodium carbonate | 13.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dichloro-3-nitrobenzene | 19.29 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])Cl | C6H3Cl2NO2
reactant | 2,4-dichlorothio-phenol | 17.9 g | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-chloro-2-(2,4-dichlorophenylthio)-nitrobenzene | ClC=1C(=C(C=CC1)[N+](=O)[O-])SC1=C(C=C(C=C1)Cl)Cl | C12H6Cl3NO2S
